US04310590
5-(N,N-Dibenzylthiocarbamoyl)thio-2-phenethyl-4-isothiazolin-3-one
To a solution of 4.8 g. (0.02 mole) of 5-chloro-2-phenethyl-4-isothiazolin-3-one in 35 ml of ethanol was added 5.9 g. (0.02 mole) of N,N-dibenzyldithiocarbamic acid sodium salt followed by 0.15 g. sodium iodide. The mixture was concentrated in vacuo and the residue was treated with 300 ml of boiling hexane under reflux. The hexane solution decanted and cooled to give 0.63 g. of the named product, mp 98°-100°.

reactant | 5-chloro-2-phenethyl-4-isothiazolin-3-one | 0.02 mole | ClC1=CC(N(S1)CCC1=CC=CC=C1)=O | C11H10ClNOS
reactant | N,N-dibenzyldithiocarbamic acid sodium salt | 0.02 mole | [Na+].C(C1=CC=CC=C1)N(C([S-])=S)CC1=CC=CC=C1
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 5-(N,N-Dibenzylthiocarbamoyl)thio-2-phenethyl-4-isothiazolin-3-one | C(C1=CC=CC=C1)N(C(=S)SC1=CC(N(S1)CCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C26H24N2OS3
